### PR TITLE
Proof of hasLocallyIntegrableSup_of_locally_classDL

### LINKED ISSUE #288: A càdlàg process that is locally of class DL has locally integrable supremum.
https://remydegenne.github.io/brownian-motion/blueprint/sect0004.html#lem:hasLocallyIntegrableSup_of_locally_classDL

### PR DESCRIPTION
**Pull request by nick-kuhn**
I used and added `lemma isStable_hasIntegrableSup`, which seemed more appropriate than showing stability of `hasLocallyIntegrableSup`.

Closes #288

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/ClassD.lean [hunk 1]
```diff
@@ -95,9 +104,15 @@ section LinearOrder
...
 variable [LinearOrder ι] {𝓕 : Filtration ι mΩ}
 
-lemma isStable_hasLocallyIntegrableSup [OrderBot ι] [TopologicalSpace ι] [OrderTopology ι] :
-    IsStable 𝓕 (HasLocallyIntegrableSup (E := E) · 𝓕 P) := by
-  sorry
+lemma isStable_hasIntegrableSup [OrderBot ι] [TopologicalSpace ι]
+    [OrderTopology ι] [MeasurableSpace ι] :
+    IsStable 𝓕 (HasIntegrableSup (E := E) · P) := by
+      sorry
+
```
Comment (kex-y) [inline BrownianMotion/StochasticIntegral/ClassD.lean]: Can you add a lemma here (using `locally_and`) to say that one has `HasLocallyIntegrableSup` if and only if one have (non-local I think) measurability and local integrability

Comment (nick-kuhn) [reply BrownianMotion/StochasticIntegral/ClassD.lean]: My impression is that you'd never want to talk about (integrable sup) without the measurability condition, as it won't be stable.

File: BrownianMotion/StochasticIntegral/ClassD.lean [hunk 2]
```diff
@@ -95,9 +104,15 @@ section LinearOrder
 
 variable [LinearOrder ι] {𝓕 : Filtration ι mΩ}
 
-lemma isStable_hasLocallyIntegrableSup [OrderBot ι] [TopologicalSpace ι] [OrderTopology ι] :
-    IsStable 𝓕 (HasLocallyIntegrableSup (E := E) · 𝓕 P) := by
-  sorry
+lemma isStable_hasIntegrableSup [OrderBot ι] [TopologicalSpace ι]
```
[the remark this answers is not in the document]
Comment (kex-y) [reply BrownianMotion/StochasticIntegral/ClassD.lean]: Yes you're right. I think it be good to have a lemma saying stongly measurable is stable
